US07851626B2
2-Ethoxy-4-methoxy-5-(pyrrolidine-1-sulfonyl)benzoic acid methyl ester
In a manner analogous to the method described in example 33, 5-chlorosulfonyl-2-ethoxy-4-methoxy-benzoic acid methyl ester was reacted with pyrrolidine to give the title compound.

reactant | 5-chlorosulfonyl-2-ethoxy-4-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)S(=O)(=O)Cl)OC)OCC)=O | C11H13ClO6S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-Ethoxy-4-methoxy-5-(pyrrolidine-1-sulfonyl)benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)S(=O)(=O)N1CCCC1)OC)OCC)=O | C15H21NO6S
